US07109148B2
First, 1.92 g of trifluoromethanesulfonic acid was added dropwise to a mixture of 2.54 g of 3-amino-2-(methoxycarbonyl)methylthiopyridine, 6 ml of 1,2-dimethoxyethane, and 2 ml of dichloromethane at −10° C. After stirring at the same temperature for 10 minutes, a solution of 1.59 g of t-butyl nitrite in 1 ml of 1,2-dimethoxyethane was added dropwise to the reaction mixture at −5° C. or lower. After stirring at the same temperature for 30 minutes, n-pentane was poured into the mixture. The lower one of the two layers separated was dissolved in 3 ml of acetic anhydride, and the solution was stirred at 50° C. to 70° C. for 1 hour. The reaction mixture was cooled to room temperature and then poured into water, and the mixture was extracted with t-butyl methyl ether. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel chromatography to give 0.48 g of 3-acetoxy-2-(methoxycarbonyl)methylthiopyridine.

reactant | trifluoromethanesulfonic acid | 1.92 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 3-amino-2-(methoxycarbonyl)methylthiopyridine | 2.54 g | NC=1C(=NC=CC1)SCC(=O)OC | C8H10N2O2S
reactant | dichloromethane | 2 ml | ClCCl | CH2Cl2
reactant | t-butyl nitrite | 1.59 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | 1,2-dimethoxyethane | 1 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 6 ml | COCCOC | C4H10O2
solvent | n-pentane | CCCCC | C5H12
product | 3-acetoxy-2-(methoxycarbonyl)methylthiopyridine | 0.48 g | C(C)(=O)OC=1C(=NC=CC1)SCC(=O)OC | C10H11NO4S
